reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][H:13])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([O:7][H:19])([H:17])[H:18])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.94510952905788
[C:1]([H:8])([H:9])([H:10])[H:11].[n:2]1[c:3]([O-:4])[n+:5]([H:12])[c:6]([H:13])[n:7]1[H:14]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],70.25868038926822
[C:1]([C@:6]1([H:14])[C:5]([H:12])([H:13])[O:4]/[C:2](=[N:3]/[H:11])[O:7]1)([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],105.3286938401062
[C-:1]([N+:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])([H:8])[H:10])([H:7])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],20.617884600063405
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N+:4]([C-:5]([H:12])[H:13])=[C:6]([H:14])[H:15])[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],23.027841006914002
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([N+:6]#[C-:5])[H:10])([H:7])([H:8])[H:9],52.358610023947286
[O:1]=[C:2]([C:4]1([H:9])[C:3]([H:8])([H:10])[O:6][C:5]1([H:11])[H:12])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],91.49507485344512
[C:1]([C:2](=[O:3])[C:4]([N:5]([C:6]([O:7][H:12])([H:11])[H:16])[H:15])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],37.8803415359553
[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6]>>[O+:1](=[C:2]=[C:5]=[N-:6])[C:3]#[N:4],100.062271734228
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[O+:1]#[C-:2],83.53901300449999
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C:3]1([N:2])[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],67.6118772127401
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:14])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C@@:4]([C:6]([O:7][H:17])([H:15])[H:16])([H:13])[O:5]1,73.1616441912595
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[N:2][C:3]([N+:4]([H:9])([H:11])[H:12])=[C:5]([O-:6])[N:7]([H:13])[H:14])([H:8])[H:10],59.5917754771284
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])=[C:6]=[N:7][H:10])([H:8])[H:9],84.5816360308774
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4][N:5]([N+:7]#[C-:6])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],105.352014764957
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2]1/[O:3][C:4]([H:9])([H:10])[C-:5]=[N+:6]1[H:8])\[H:7],88.50389378606121
[C-:5]#[O+:6].[H:11][H:14].[O:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],42.128988200770806
[O:1]([C:2]([C@:3]1([H:11])[C:4]([H:12])=[C:5]([O:6][H:13])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],60.507740228689904
[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[H:12])([H:9])[H:10])[H:8])([H:7])[H:11],68.0194846950156
[C+:3]([O:4][H:7])=[C:5]=[N-:6].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7],14.153740283010606
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4](=[C:3]=[C:2]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],95.6558624478894
[C:1]([C@@:2]1([H:10])[C:3]([H:12])([H:13])[C:4][C@:5]1([C:6]([H:14])([H:15])[H:16])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]#[C:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],37.24260182870889
[N:1]([C@@:2]12[O:3][C@@:6]([H:12])([O:5][C:4]1([H:10])[H:11])[N:7]2[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],16.398577522391797
[C:1]([C:2]#[C:3][O+:5]=[C-:4][N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],36.7518966528292
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1](/[C:2](=[C:3](/[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])[H:9])[H:8])[H:7],71.3631642322717
